US07482340B2
2-[Bis(−2-hydroxyethyl)amino]-N-[6-(2-phenylchroman-6-yloxy)pyridin-3-yl]acetamide
To a solution of 2-chloro-N-[6-(2-phenylchroman-6-yloxy)-pyridin-3-yl]acetamide (177 mg) in acetonitrile was added potassium carbonate (118 mg) and diethanolamine (65 μl). The mixture was stirred at room temperature. Water was added to the reaction mixture. Solution was extracted with ethyl acetate. Organic extract was dried and evaporated. 2-[Bis(2-hydroxyethyl)amino]-N-[6-(2-phenyl-chroman-6-yloxy)pyridin-3-yl]acetamide was purified by column chromatography using 10% methanol in methylenechloride as eluant. 1H-NMR (400 MHz; d6-DMSO) δ: 10.1 (s, 1H), 8.31 (d, 1H, J 2.7 Hz), 8.07 (dd, 1H, J 2.7, 8.8 Hz), 7.46-7.31 (m, 5H), 6.95 (d, 1H, J 8.8 Hz), 6.86-6.84 (m, 3H), 5.11 (dd, 1H, J 2.1, 10.0 Hz), 4.71 (t, 2H, J 5.4 Hz), 3.50 (q, 4H, J 5.4 Hz), 2.97-2.92 (m, 1H), 2.74-2.70 (m, 1H), 2.67 (t, 4H, J 5.4 Hz), 2.18-2.14 (m, 1H), 2.02-1.97 (m, 1H).

reactant | 2-chloro-N-[6-(2-phenylchroman-6-yloxy)-pyridin-3-yl]acetamide | 177 mg | ClCC(=O)NC=1C=NC(=CC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C22H19ClN2O3
reactant | potassium carbonate | 118 mg | C([O-])([O-])=O.[K+].[K+]
reactant | diethanolamine | 65 μl | N(CCO)CCO | C4H11NO2
reactant | Water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[Bis(−2-hydroxyethyl)amino]-N-[6-(2-phenylchroman-6-yloxy)pyridin-3-yl]acetamide | OCCN(CC(=O)NC=1C=NC(=CC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1)CCO | C26H29N3O5
